US05665271
33.5 g (0.1 mol) of 4-(4-bromocyclohexyl)-1-(1,2,2-trifluorovinyloxy)benzene was dropped in a mixture of 2.5 g (0.11 mols) of magnesium and 300 ml of THF to obtain a Grignard reagent. The resultant solution was then dropped in a solution, in 500 ml of THF, of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 29.1 g (0.1 mol) of trans-4-(4-bromobutyl)-1-n-butyl-1-silacyclohexane. The resultant product consisted of a mixture of tram and cis isomers with respect to the cyclohexane ring. The product was subjected to ordinary aftertreatments to obtain trans-4-(4-(trans-4-(1,2,2-trifluorovinyloxy)phenyl)cyclohexyl)butyl)-1-n-butyl-1-silacyclohexane, followed by isolation through chromatography to obtain 17.1 g (yield: 37%) of the intended trans isomer product.

reactant | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | trans-4-(4-bromobutyl)-1-n-butyl-1-silacyclohexane | 0.1 mol, 29.1 g | BrCCCC[C@@H]1CC[Si@H](CC1)CCCC | C13H27BrSi
solvent | THF | 500 ml | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.1 g | [Cu]I
product | 1-n-butyl-1-silacyclohexane | yield: 37% | C(CCC)[SiH]1CCCCC1 | C9H20Si
